US06703392B2
2-[1-(3-Methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide:
prepared by reaction of 1-(3-Methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline and 2-bromoacetyl bromide with 1-Aminoindan

reactant | 1-(3-Methoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC1 | C19H23NO3
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1-Aminoindan | NC1CCC2=CC=CC=C12 | C9H11N
product | 2-[1-(3-Methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NC2CCC3=CC=CC=C23)C=CC1 | C30H34N2O4
